US07728003B2
Step A. 8-Cyclohexyl-5-oxo-2-(3,5-dimethoxy-benzylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
Using the procedure outlined in Example 28 Step F, the title compound was prepared from 3,5-dimethoxy-benzylamine and 8-cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester (33 mg, 0.08 mmol). 8-Cyclohexyl-5-oxo-2-(3,5-dimethoxy-benzylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester was obtained as a white solid (29 mg, 90%). Mass Spectrum (LCMS, ESI pos.) Calcd. For C25H30N4O5: 467.22 (M+H). Found: 467.2.

reactant | 3,5-dimethoxy-benzylamine | COC=1C=C(CN)C=C(C1)OC | C9H13NO2
reactant | 8-cyclohexyl-2-methanesulfonyl-5-oxo-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | 0.08 mmol, 33 mg | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)S(=O)(=O)C)N(C1)C1CCCCC1)=O | C17H21N3O5S
product | 8-Cyclohexyl-5-oxo-2-(3,5-dimethoxy-benzylamino)-5,8-dihydro-pyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C=1C(C2=C(N=C(N=C2)NCC2=CC(=CC(=C2)OC)OC)N(C1)C1CCCCC1)=O | C25H30N4O5
